* source CALCULO
X_U1         N15125 N14512 VCC VEE N14512 AD817/AD
X_U2         N14574 N14519 VCC VEE ERROR AD817/AD
V_V1         VCC 0 15
V_V2         0 VEE 15
C_C1         N14519 ERROR  220p  TC=0,0 
C_C2         0 N14574  220p  TC=0,0 
R_R1         0 N14574  100k TC=0,0 
R_R2         ERROR N14519  100k TC=0,0 
R_R3         N14512 N14519  1k TC=0,0 
R_R4         0 N14574  1k TC=0,0 
V_V3         VF 0  AC 1
+SIN 0 0 0 0 0 0
R_R5         N15125 VF  19k TC=0,0 
R_R6         0 N15125  1k TC=0,0 
L_L1         VS VO  33u  
C_C3         0 VO  330n  TC=0,0 
R_R7         0 VO  8 TC=0,0 
X_U3         N15681 VS awbdelay PARAMS: DELAY=150n
E_E1         N15681 0 ERROR 0 20
E_E2         -VS 0 VS 0 -1
R_R12         0 N18087  1k TC=0,0 
R_R14         0 N18087  82k TC=0,0 
R_R11         ERROR2 N17783  82k TC=0,0 
E_E4         -TL082 0 VS2 0 -1
X_U6         N17993 VS2 awbdelay PARAMS: DELAY=150n
L_L2         VS2 N18017  33u  
V_V4         N17623 0  AC 1
+SIN 0 0 0 0 0 0
R_R8         N17609 N17623  19k TC=0,0 
C_C4         N17783 ERROR2  220p  TC=0,0 
C_C5         0 N18017  330n  TC=0,0 
R_R9         0 N17609  1k TC=0,0 
R_R10         N17635 N17783  1k TC=0,0 
E_E3         N17993 0 ERROR2 0 20
C_C6         0 N18087  220p  TC=0,0 
R_R13         0 N18017  8 TC=0,0 
X_U7A         N18087 N17783 VCC VEE ERROR2 TL082/301/TI
X_U7B         N17609 N17635 VCC VEE N17635 TL082/301/TI
